US08629270B2
2-(Diallylamino)-1-(4-fluorophenyl)ethanone oxime
2-(Diallylamino)-1-(4-fluorophenyl)ethanone (13.38 g, 57.36 mmol) is dissolved in ethanol (250 mL) and sodium acetate (5.7 g) is added followed by hydroxylamine hydrochloride (5.23 g, 74.6 mmol). The reaction is warmed to 70° C. for 2.5 hours then stirred at room temperature for 16 hours. The mixture is concentrated and the resulting residue is purified by silica gel flash chromatography eluting with ethyl acetate/hexanes (gradient 0-100%). The isolated material is repurified a second time to give the title compound (7.76 g, 54.5%). ES/MS (m/e): 249 (M+H).

reactant | 2-(Diallylamino)-1-(4-fluorophenyl)ethanone | 57.36 mmol, 13.38 g | C(C=C)N(CC(=O)C1=CC=C(C=C1)F)CC=C | C14H16FNO
reactant | sodium acetate | 5.7 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 74.6 mmol, 5.23 g | Cl.NO
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-(Diallylamino)-1-(4-fluorophenyl)ethanone oxime | 7.76 g, 54.5% | C(C=C)N(CC(=NO)C1=CC=C(C=C1)F)CC=C | C14H17FN2O
